US04742052
To a solution of 3,3-dimethylglutaric acid (6.4 g) in dry dimethylformamide (100 ml) was added in four portions sodium hydride (50%) (1.92 g) at 30° to 40° C. under nitrogen atmosphere. The resulting mixture was stirred for 30 minutes, and p-methoxybenzyl chloride (6.28 g) in dry dimethylformamide (20 ml) was added to the mixture. The reaction mixture was stirred at 60° to 70° l C. for 10 hours, diluted with saturated aqueous sodium chloride and ethyl acetate. The ethyl acetate layer was extracted with aqueous potassium carbonate. The aqueous layer was acidified on ice-bath with concentrated hydrochloric acid and extracted with benzene. The extract was washed with water, dried over anhydrous sodium sulfate and evaporated to give 3,3-dimethylglutaric acid mono-p-methoxybenzyl ester.

reactant | 3,3-dimethylglutaric acid | 6.4 g | CC(CC(=O)O)(CC(=O)O)C | C7H12O4
reactant | sodium hydride | 1.92 g | [H-].[Na+]
reactant | p-methoxybenzyl chloride | 6.28 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | sodium chloride | [Cl-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,3-dimethylglutaric acid mono-p-methoxybenzyl ester | COC1=CC=C(COC(CC(CC(=O)O)(C)C)=O)C=C1 | C15H20O5
